US03998842
Reaction of 5-chloro-3-hydroxy-3-phenyl-2-indolinone with 4-bromobutyronitrile by a procedure analogous to that in Example 3(a) followed by hydrogenation of the resulting nitrile by a procedure analogous to that of Example 3(b) gives 9-chloro-11-phenyl-2,4,5,11-tetrahydro-3H-1,3-diazepino[1,2-a]indol-11-ol [m.p. of hydrobromide is 298°-300°C(decomp.)].

reactant | 5-chloro-3-hydroxy-3-phenyl-2-indolinone | ClC=1C=C2C(C(NC2=CC1)=O)(C1=CC=CC=C1)O | C14H10ClNO2
reactant | 4-bromobutyronitrile | BrCCCC#N | C4H6BrN
product | 9-chloro-11-phenyl-2,4,5,11-tetrahydro-3H-1,3-diazepino[1,2-a]indol-11-ol | ClC1=CC=2C(C=3N(C2C=C1)CCCCN3)(O)C3=CC=CC=C3 | C18H17ClN2O
